US06528525B1
(a) Diethyl 2-(4-isopropylphenoxy)malonate
Sodium hydride (55% suspension in oil, 5.22 g) was added to a solution of 4-isopropylphenol (15.0 g) in a mixture of dimethylformamide (63 ml) and toluene (75 ml). The mixture was stirred at ambient temperature for 1 hour. To the reaction mixture, diethyl 2-chloromalonate (18.5 g) was added. The mixture was stirred at 60° C. for 2.5 hours. At the end of this time ethyl acetate was added to the reaction mixture. The ethyl acetate layer was separated and washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated. The residue was purified via chromatography on a silica gel column using hexane/ethyl acetate=4/1 as the eluant to afford the desired compound (21.5 g) as a syrup.

reactant | Sodium hydride | 5.22 g | [H-].[Na+]
reactant | 4-isopropylphenol | 15.0 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | diethyl 2-chloromalonate | 18.5 g | ClC(C(=O)OCC)C(=O)OCC | C7H11ClO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 63 ml | CN(C=O)C | C3H7NO
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl 2-(4-isopropylphenoxy)malonate | 21.5 g | C(C)(C)C1=CC=C(OC(C(=O)OCC)C(=O)OCC)C=C1 | C16H22O5
